US06265411B1
A solution of 5-(2-morpholinoethylaminosulphonyl)oxindole (364 mg, 1.1 mmol), (prepared as described for the starting material in Example 48), in DMF (3.5 ml) was added dropwise to a suspension of sodium hydride (90 mg, 2.2 mmol, prewashed with hexane) in DMF (1.5 ml). The mixture was stirred for 30 minutes at ambient temperature and 4-chloro-6,7dimethoxyquinazoline (84 mg, 0.37 mmol), (prepared as described for the starting material in Example 1), was added as a solid followed by DMSO (2 ml). The mixture was stirred for 45 minutes at 60° C., allowed to cool and partitioned between methylene chloride and saturated aqueous ammonium chloride solution. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5 followed by 92/8). The purified solid was triturated with ether, collected by filtration; washed with ether and dried under vacuum. The solid was dissolved in methylene chloride/methanol and 2M ethereal hydrogen chloride (1 ml) was added. The volatiles were removed bv evaporation, the solid residue triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 6,7-dimethoxy-4-(5-(2-morpholinoethylaminosulphonyl)oxindol-3-yl)quinazoline hydrochloride (106 mg, 50%).

reactant | 5-(2-morpholinoethylaminosulphonyl)oxindole | 1.1 mmol, 364 mg | O1CCN(CC1)CCNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C14H19N3O4S
reactant | sodium hydride | 2.2 mmol, 90 mg | [H-].[Na+]
reactant | 4-chloro-6,7dimethoxyquinazoline | 0.37 mmol, 84 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6,7-dimethoxy-4-(5-(2-morpholinoethylaminosulphonyl)oxindol-3-yl)quinazoline hydrochloride | 106 mg, 50% | Cl.COC=1C=C2C(=NC=NC2=CC1OC)C1C(NC2=CC=C(C=C12)S(=O)(=O)NCCN1CCOCC1)=O | InChI=1S/C24H27N5O6S.ClH/c1-33-20-12-17-19(13-21(20)34-2)25-14-26-23(17)22-16-11-15(3-4-18(16)28-24(22)30)36(31,32)27-5-6-29-7-9-35-10-8-29;/h3-4,11-14,22,27H,5-10H2,1-2H3,(H,28,30);1H
